US04877789
In the same manner as in the above example, the intermediate formed from 1 g of 5,8,11-eicosatriynoic acid and 0.7 g of CDI is treated with 0.727 g of para-hydroxyaniline. The medium is then stirred for 24 hours at room temperature. Water is then added gradually to the mixture until all the product formed precipitates. It is drained and dried and then recrystallized in isopropyl ether. 0.85 g of N-(para-hydroxyphenyl)-5,8,11-eicosatriynamide is obtained in the form of beige-white crystals of melting point 121° C.

reactant | 5,8,11-eicosatriynoic acid | 1 g | C(CCCC#CCC#CCC#CCCCCCCCC)(=O)O | C20H28O2
reactant | CDI | 0.7 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | para-hydroxyaniline | 0.727 g | OC1=CC=C(N)C=C1 | C6H7NO
solvent | Water | O | H2O
product | N-(para-hydroxyphenyl)-5,8,11-eicosatriynamide | 0.85 g | OC1=CC=C(C=C1)NC(CCCC#CCC#CCC#CCCCCCCCC)=O | C26H33NO2
